US07745462B2
Trifluoroacetic anhydride (0.763 ml, 5.4 mmol) is added to a cooled (0° C.) solution of 2-amino-2-benzylindan-1-one hydrochloride (1.0 g, 3.65 mmol) and triethylamine (1.27 ml, 9.13 mmol) in tetrahydrofuran (THF) (50 ml). The cooling bath is removed and the reaction is stirred at ambient temperature for 4 hours. Additional trifluoroacetic anhydride (0.102 ml, 0.73 mmol) is added and the reaction stirred for 16 hours. The solvent is evaporated and the residue partitioned between ether and 1 M HCl. The organic phase is washed with brine, dried (MgSO4) and evaporated to afford N-(2-benzyl-1-oxoindan-2-yl)-2,2,2-trifluoro-acetamide, MH+334.

reactant | Trifluoroacetic anhydride | 5.4 mmol, 0.763 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-amino-2-benzylindan-1-one hydrochloride | 3.65 mmol, 1.0 g | Cl.NC1(C(C2=CC=CC=C2C1)=O)CC1=CC=CC=C1
reactant | triethylamine | 9.13 mmol, 1.27 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.73 mmol, 0.102 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(2-benzyl-1-oxoindan-2-yl)-2,2,2-trifluoro-acetamide | C(C1=CC=CC=C1)C1(C(C2=CC=CC=C2C1)=O)NC(C(F)(F)F)=O | C18H14F3NO2
